US08334292B1
Step 2: Preparation of 4-(2-methoxyethyl)phenylboronic acid
To a solution of 1-bromo-4-(2-methoxyethyl)benzene (1 g, 4.6 mmole) in THF (15 mL) at −78° C. was added dropwise BuLi (2.5M in hexane) (2.4 mL, 6 mmole). After stirring at −78° C. for 20 min, trimethyl borate (0.62 g, 6 mmole) was added to the mixture at −78° C. The mixture was slowly warmed to room temperature and stirred at room temperature for 1 h. 2N HCl was added to the reaction mixture and stirred for 2 h. The mixture was extracted with ether, washed with water, dried over MgSO4, and filtered. Hexane was added to the ether solution. Solid was precipitated and collected by filtration. The solid was used in the next step without purification. MS (ESI) m/z: Calc: 180.0 (M+). Found: 181.3 (M++1).

reactant | 1-bromo-4-(2-methoxyethyl)benzene | 4.6 mmole, 1 g | BrC1=CC=C(C=C1)CCOC | C9H11BrO
reactant | BuLi | 6 mmole, 2.5M, 2.4 mL | [Li]CCCC
reactant | trimethyl borate | 6 mmole, 0.62 g | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 2N | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(2-methoxyethyl)phenylboronic acid | COCCC1=CC=C(C=C1)B(O)O | C9H13BO3
